US08623902B2
To a solution of (4-chloro-phenyl)-[(S)-1-(3-difluoromethyl-1-methyl-1H-pyrazole-4-carbonyl)-pyrrolidin-2-yl]-methanone (370 mg; 1.0 mmol), which was prepared as described in example P5, in methanol (5 ml) at 0° C. was added portionwise sodium borohydride (35 mg; 1.0 mmol). The reaction mixture was stirred for 0.5 hours and 1N HCl was added until pH 7 reached. Solvent was removed under pressure and the remaining mixture was extracted with ethylacetate (2×20 ml). The combined organic layer was dried over Na2SO4, filtered, concentrated and dried in vacuo to give 0.31 g (83.3% of theory) of {(S)-2-[(4-chlorophenyl)-hydroxy-methyl]-pyrrolidin-1-yl}-(3-difluoromethyl-1-methyl-1H-pyrazol-4-yl)-methanone as an oil.

reactant | (4-chloro-phenyl)-[(S)-1-(3-difluoromethyl-1-methyl-1H-pyrazole-4-carbonyl)-pyrrolidin-2-yl]-methanone | 1.0 mmol, 370 mg | ClC1=CC=C(C=C1)C(=O)[C@H]1N(CCC1)C(=O)C=1C(=NN(C1)C)C(F)F | C17H16ClF2N3O2
reactant | sodium borohydride | 1.0 mmol, 35 mg | [BH4-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | {(S)-2-[(4-chlorophenyl)-hydroxy-methyl]-pyrrolidin-1-yl}-(3-difluoromethyl-1-methyl-1H-pyrazol-4-yl)-methanone | 0.31 g, 83.3% | ClC1=CC=C(C=C1)C([C@H]1N(CCC1)C(=O)C=1C(=NN(C1)C)C(F)F)O | C17H18ClF2N3O2
